US06716859B2
2-Anilinopyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide
To a stirred solution of 2-anilino-nicotinic acid hydrazide (0.31 g, 1.05 mmol) in 20 mL EtOH was added 3-trifluoromethyl-benzaldehyde (0.182 g, 1.05 mmol) in 5 mL EtOH at room temperature. The mixture was refluxed for 4 h and cooled to room temperature, then diluted by 100 mL water. The precipitate was collected by filtration, washed with MeOH, and dried to yield the title compound (0.343 g, 85%). 1H NMR (acetone-d6): 11.40 (S, 1H), 11.80 (S, 1H), 8.56 (s, 1H), 8.37 (d, J=4.8 Hz, 1H), 8.22 (d, J=8.1 Hz, 1H), 8.13 (s, 1H), 8.06 (d, J=8.1 Hz, 1H), 7.80 (m, 3H), 7.12 (m, 1H), 7.32 (m, 2H), 7.0 (t, J=8.1 Hz, 1H), 6.86 (q, J=4.5 Hz, 1H).

reactant | 2-anilino-nicotinic acid hydrazide | 1.05 mmol, 0.31 g | N(C1=CC=CC=C1)C1=C(C(=O)NN)C=CC=N1 | C12H12N4O
reactant | 3-trifluoromethyl-benzaldehyde | 1.05 mmol, 0.182 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | water | 100 mL | O | H2O
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 5 mL | CCO | C2H6O
product | 2-Anilinopyridine-3-carboxylic acid (3-trifluoromethyl-benzylidene)-hydrazide | 0.343 g, 85% | FC(C=1C=C(C=NNC(=O)C=2C(=NC=CC2)NC2=CC=CC=C2)C=CC1)(F)F | C20H15F3N4O
